### PR TITLE
feat: `BitVec.[toNat|toInt]` non-overflow `simp` lemmas

### PR DESCRIPTION
**Pull request by luisacicolini**
This PR adds `simp` lemmas for `toInt_*` and `toNat_*`  with arithmetic operation given the hypothesis of no-overflow (`toNat_add_of_not_uaddOverflow`, `toInt_add_of_not_saddOverflow`, `toNat_sub_of_not_usubOverflow`, `toInt_sub_of_not_ssubOverflow`, `toInt_neg_of_not_negOverflow`, `toNat_mul_of_not_umulOverflow`, `toInt_mul_of_not_smulOverflow`). In particular, these are `simp` since (1) the `rhs` is strictly simpler than the `lhs` and (2) this version is also simpler than the standard operation when the hypothesis is available. 
 
co-authored by @tobiasgrosser

### CODE REVIEW

**Comment by luisacicolini** [comment]
changelog-library

File: src/Init/Data/BitVec/Lemmas.lean [hunk 1]
```diff
@@ -3749,6 +3749,15 @@ theorem two_mul {x : BitVec w} : 2#w * x = x + x := by rw [BitVec.mul_comm, mul_
...
   simp [toInt_eq_toNat_bmod, -Int.natCast_pow]
 
+@[simp]
+theorem toInt_mul_of_not_smulOverflow {x y : BitVec w} (h : ¬ smulOverflow x y) :
+    (x * y).toInt = x.toInt * y.toInt := by
+  rcases w with _|w
+  · simp [of_length_zero]
+  · simp only [smulOverflow, Nat.add_one_sub_one, ge_iff_le, Bool.or_eq_true, decide_eq_true_eq,
+    _root_.not_or, Int.not_le, Int.not_lt] at h
+    simp [Int.bmod_eq_of_le (n := x.toInt * y.toInt) (m := 2 ^ (w + 1)) (by push_cast; omega) (by push_cast; omega)]
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:3759]:
```suggestion
    simp [Int.bmod_eq_of_le (n := x.toInt * y.toInt) (m := 2 ^ (w + 1)) (by push_cast; omega)
      (by push_cast; omega)]
```

The line was over the 120 character limit.

**Comment by luisacicolini** [comment]
I'm wondering @tobiasgrosser: instead of all the unfolding the defs in the hypotheses, should we have a `simp` lemma that rewrites the overflow flag with the bounds of the ops?

**Comment by tobiasgrosser** [comment]
> I'm wondering @tobiasgrosser: instead of all the unfolding the defs in the hypotheses, should we have a `simp` lemma that rewrites the overflow flag with the bounds of the ops? I believe it would make the proofs much nicer

Indeed! Good catch!

File: src/Init/Data/BitVec/Lemmas.lean (hunk 1 above)
Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Lemmas.lean:3759]: Also, if you replace the simp with `rw` you, may not need to specify the arguments explicitly.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 2]
```diff
@@ -3321,13 +3321,31 @@ Definition of bitvector addition as a nat.
 @[simp] theorem add_ofFin (x : BitVec n) (y : Fin (2^n)) :
   x + .ofFin y = .ofFin (x.toFin + y) := rfl
 
+@[simp]
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:3324]: I am not sure you want to mark those lemmas `simp`, as this transformations looses some semantic information that may sometimes be desirable.

Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean:3324]: what information?

Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Lemmas.lean:3324]: By automatically simplifying to `toNat` we move away from the bitvec world into the `Nat` world. One consequence of this is that `bv_decide` won't understand this statement anymore. I did not realize this when I wrote the comment above, but losing the ability to use `bv_decide` is nothing we want to do by default.

**Review by tobiasgrosser — APPROVED** [review]
Great. The PR title should contain the word `BitVec`, e.g., "feat: `BitVec.[toNat|toInt]` non-overflow `simp` lemmas"

File: src/Init/Data/BitVec/Lemmas.lean [hunk 3]
```diff
@@ -3749,6 +3794,23 @@ theorem two_mul {x : BitVec w} : 2#w * x = x + x := by rw [BitVec.mul_comm, mul_
...
+  · simp only [umulOverflow, ge_iff_le, decide_eq_true_eq, Nat.not_le] at h
+    rw [toNat_mul, Nat.mod_eq_of_lt h]
+
+@[simp]
+theorem toInt_mul_of_not_smulOverflow {x y : BitVec w} (h : ¬ smulOverflow x y) :
+    (x * y).toInt = x.toInt * y.toInt := by
+  rcases w with _|w
+  · simp [of_length_zero]
+  · simp only [smulOverflow, Nat.add_one_sub_one, ge_iff_le, Bool.or_eq_true, decide_eq_true_eq,
+    _root_.not_or, Int.not_le, Int.not_lt] at h
```
Comment (hargoniX) [inline src/Init/Data/BitVec/Lemmas.lean:3811]:
```suggestion
      _root_.not_or, Int.not_le, Int.not_lt] at h
```
